### PR TITLE
Prove homomorphism from real characterization, new lemmas

### PR DESCRIPTION
**Pull request by joelkronqvist**
I'm reopening https://github.com/kkytola/ExtremeValueProject/pull/68 here -- I did some branch renaming without expecting that GitHub would close the previous PR.

### CODE REVIEW

**Comment by joelkronqvist** [comment]
https://github.com/kkytola/ExtremeValueProject/pull/68#discussion_r3511361108 is now fixed by 811e72b83de7d56ff1a59d1bbb4d172e68517e17 and everything seems ready for more review / eventually merging.

File: ExtremeValueProject/OneParameterAffine.lean [hunk 1]
```diff
@@ -151,6 +151,7 @@ lemma IsOpen.countable_setOf_connectedComponentIn
   let ψ : {C : Set α | ∃ x ∈ s, C = connectedComponentIn s x} → ConnectedComponents s :=
     fun C ↦ ConnectedComponents.mk
             ⟨(mem_setOf_eq.mp C.prop).choose, (mem_setOf_eq.mp C.prop).choose_spec.1⟩
+
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: Let's not add blank lines in short proofs.
```suggestion
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 2]
```diff
@@ -383,6 +384,12 @@ lemma AffineIncrEquiv.conjugate_homOfIndex₀ (A : AffineIncrEquiv) (β : ℝ) (
     A * homOfIndex₀ β s * A⁻¹ = homOfIndex₀ (β * A.coefs.1) s := by
   sorry -- **Issue #46**
 
+lemma AffineIncrEquiv.homOfIndex₀_ext_of_coefs
+    {A₁ : AffineIncrEquiv} {t β : ℝ} (h : A₁.coefs = ((homOfIndex₀ β) t).coefs) :
+    A₁ = (homOfIndex₀ β) t := by
+  ext x
+  simp [h]
+
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: The existing lemma `AffineIncrEquiv.ext_of_coefs` is more general; I don't think it is worth adding lemmas for each special case application.

```suggestion
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 3]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
   continuous_ofAdd.measurable
 
+noncomputable def AffineIncrEquiv.hom_coef_fst
+    (f : MonoidHom (Multiplicative ℝ) AffineIncrEquiv) :=
+  fun s ↦ (f s).coefs.1
+
+noncomputable def AffineIncrEquiv.hom_coef_snd
+    (f : MonoidHom (Multiplicative ℝ) AffineIncrEquiv) :=
+  fun s ↦ (f s).coefs.2
+
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: I don't think these are worth two more declarations in the namespace (plus 8 lines). They are not particularly reusable and they introduce the need to unfold more layers of definitions without significantly improving readability in the few places they would be used.

```suggestion
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 4]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
 /-- Characterization of homomorphisms `f : ℝ → AffineIncrEquiv`. -/
 theorem AffineIncrEquiv.homomorphism_from_Real_characterization
     (f : MonoidHom (Multiplicative ℝ) AffineIncrEquiv) (f_mble : Measurable f) :
     (∃ β, f = homOfIndex₀ β) ∨ (∃ α c, f = homOfIndex α c) := by
-  sorry -- TODO: Create issue.
+  let a₀ : AffineIncrEquiv → ℝ := fun A ↦ A.coefs.1
+  let b₀ : AffineIncrEquiv → ℝ := fun A ↦ A.coefs.2
+  let a : ℝ → ℝ := a₀ ∘ f
+  let b : ℝ → ℝ := b₀ ∘ f
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: The last two lines of notation add some readability, but I do not see the point of the first two lines here.

```suggestion
  let a (s : ℝ) : ℝ := (f s).coefs.1
  let b (s : ℝ) : ℝ := (f s).coefs.2
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 5]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+  have a_pos (s : ℝ) : 0 < a s := (f s).coefs_fst_pos
+  have a_hom (s t : ℝ) : a (s + t) = a s * a t :=
+    AffineIncrEquiv.homomorphism_coef_eqn_fst f s t
+  have b_hom (s t : ℝ) : b (s + t) = a s * b t + b s :=
+    AffineIncrEquiv.homomorphism_coef_eqn_snd f s t
+  have a_mble : Measurable a :=
+    Measurable.comp AffineIncrEquiv.measurable_coefs_fst f_mble
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: I switch to dot-notation, which seems to unify more robustly here.

```suggestion
    AffineIncrEquiv.measurable_coefs_fst.comp f_mble
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 6]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+  have b_mble : Measurable b :=
+    Measurable.comp AffineIncrEquiv.measurable_coefs_snd f_mble
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]:
```suggestion
    AffineIncrEquiv.measurable_coefs_snd.comp f_mble
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 7]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+  have b_zero : b 0 = 0 := by
+    rw [show b 0 = b₀ (f (0 : ℝ)) from rfl, show f (0 : ℝ) = 1 from map_one f]
+    exact AffineIncrEquiv.coefs_snd_one
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: The following seems a bit simpler (and probably less fragile with Mathlib version bumps).

```suggestion
    convert AffineIncrEquiv.coefs_snd_one
    simp [show f (0 : ℝ) = 1 from map_one f]
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 8]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+  obtain ⟨α, a_eq_exp_α_s⟩ :=
+    @eq_exp_const_mul_of_multiplicative_of_measurable a a_pos a_hom a_mble
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: As a style (and maintainability) improvement, I suggest providing readable (and less fragile) type ascription. In any case, one should avoid the unnecessarily verbose `@`.

```suggestion
  obtain ⟨α, a_eq_exp_α_s⟩ : ∃ α, a = fun s ↦ rexp (α * s) :=
    eq_exp_const_mul_of_multiplicative_of_measurable a_pos a_hom a_mble
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 9]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+  by_cases α_zero : α = 0
+  · left
+    have a_eq_one : a = 1 := by
+      rw [a_eq_exp_α_s, α_zero]
+      ext t
+      simp
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: Avoiding one unnecessary step:

```suggestion
      ext t
      simp [a_eq_exp_α_s, α_zero]
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 10]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+    have b_hom' (s t : ℝ) : b (s + t) = b s + b t := by
+      simpa [a_eq_exp_α_s, α_zero, add_comm t s] using b_hom t s
+    obtain ⟨β, b_eq_β_mul_s⟩ :=
+      @eq_const_mul_of_additive_of_measurable b b_hom' b_mble
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: The obtain is good, but the style (and maintainability) could be improved as above by adding a readable type ascription and omitting the verbose `@` and implicit arguments.

File: ExtremeValueProject/OneParameterAffine.lean [hunk 11]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+    use β
+    exact AffineIncrEquiv.homOfIndex₀_iff_ext a_eq_one b_eq_β_mul_s
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: It is true that without the helper lemmas, one needs to add one extra line here. But I still believe special case helper lemmas which are not very reusable are not the right solution.

```suggestion
    suffices ∀ (s x : ℝ), (f s).coefs.1 * x + (f s).coefs.2 = x + β * s by aesop
    exact fun s x ↦ show a s * x + b s = x + β * s by simp [a_eq_one, b_eq_β_mul_s]
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 12]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+  · right
+    have refactored (s t : ℝ) :
+        (rexp (α * s) - 1) * b t = (rexp (α * t) - 1) * b s := by
+      calc (rexp (α * s) - 1) * b t
+      _ = rexp (α * s) * b t + b s - b t - b s := by ring
+      _ = b (s + t) - b t - b s := by rw [b_hom, a_eq_exp_α_s]
+      _ = b (t + s) - b t - b s := by rw [add_comm s t]
+      _ = rexp (α * t) * b s + b t - b t - b s := by rw [b_hom, a_eq_exp_α_s]
+      _ = (rexp (α * t) - 1) * b s := by ring
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: The `calc` block is an excellent idea for readability! Thanks!

The only visual style suggestion is to align both the expressions with the first line and align their `:=` justifications.

```suggestion
      calc (rexp (α * s) - 1) * b t
       _ = rexp (α * s) * b t + b s - b t - b s    := by ring
       _ = b (s + t) - b t - b s                   := by rw [b_hom, a_eq_exp_α_s]
       _ = b (t + s) - b t - b s                   := by rw [add_comm s t]
       _ = rexp (α * t) * b s + b t - b t - b s    := by rw [b_hom, a_eq_exp_α_s]
       _ = (rexp (α * t) - 1) * b s                := by ring
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 13]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+    let c := - (b 1 / (rexp (α * 1) - 1))
+    have b_eq_c_mul_exp : b = λ t ↦ c * (1 - rexp (α * t)) := by
+      ext t
+      by_cases t_zero : t = 0
+      · rw [t_zero, b_zero, mul_zero,
+            show rexp 0 = 1 from (Real.exp_eq_one_iff 0).mpr (Eq.refl 0),
+            sub_self, mul_zero]
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: Shorter and more robust:

```suggestion
      · simp [t_zero, b_zero]
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 14]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+      · have term := congrArg (λ x ↦ x / (rexp (α * 1) - 1)) (refactored 1 t)
+        have : (rexp (α * 1) - 1) ≠ 0 := by
+          simp [sub_eq_zero, α_zero]
+        rw [mul_comm, mul_div_assoc, div_self this, mul_one] at term
+        rw [term]
+        ring
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: This `calc` block is a few lines longer, but more readable, I believe.

I did not understand the rationale behind the variable name `term`. And the Greek letter `λ` in this meaning is confusing in math (<https://leanprover-community.github.io/contribute/style.html> uses the human-readable `fun`).

```suggestion
      · have aux : (rexp (α * 1) - 1) ≠ 0 := by simp [sub_eq_zero, α_zero]
        calc  b t
          _ = b t * ((rexp (α * 1) - 1) / (rexp (α * 1) - 1))     := by rw [div_self aux] ; ring
          _ = (rexp (α * 1) - 1) * b t / (rexp (α * 1) - 1)       := by ring
          _ = (rexp (α * t) - 1) * b 1 / (rexp (α * 1) - 1)       :=
            congrArg (· / (rexp (α * 1) - 1)) (refactored 1 t)
          _ = c * (1 - rexp (α * t))                              := by ring
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 15]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+    exact ⟨α, c, AffineIncrEquiv.homOfIndex_iff_ext a_eq_exp_α_s b_eq_c_mul_exp⟩
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: It is true again that without the helper lemmas, one needs to add a few extra lines here. But I still believe special case helper lemmas which are not very reusable are not the right solution.

```suggestion
    refine ⟨α, c, ?_⟩
    suffices ∀ (s : ℝ), f s = homOfIndex α c s by ext s : 2 ; exact this s
    refine fun s ↦ AffineIncrEquiv.ext_of_coefs (Prod.eq_iff_fst_eq_snd_eq.mpr ?_)
    exact ⟨by simpa using congr_fun a_eq_exp_α_s s, by simpa using congr_fun b_eq_c_mul_exp s⟩```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 16]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+        (rexp (α * s) - 1) * b t = (rexp (α * t) - 1) * b s := by
+      calc (rexp (α * s) - 1) * b t
+      _ = rexp (α * s) * b t + b s - b t - b s := by ring
+      _ = b (s + t) - b t - b s := by rw [b_hom, a_eq_exp_α_s]
+      _ = b (t + s) - b t - b s := by rw [add_comm s t]
+      _ = rexp (α * t) * b s + b t - b t - b s := by rw [b_hom, a_eq_exp_α_s]
+      _ = (rexp (α * t) - 1) * b s := by ring
+    let c := - (b 1 / (rexp (α * 1) - 1))
+    have b_eq_c_mul_exp : b = λ t ↦ c * (1 - rexp (α * t)) := by
+      ext t
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: By hypotheses left of colon, you can omit the `ext t` proof step. See Mathlib style guide <https://leanprover-community.github.io/contribute/style.html#hypotheses-left-of-colon>.

Also the Greek letter λ in this meaning is confusing in math (https://leanprover-community.github.io/contribute/style.html uses the human-readable fun).

```suggestion
    have b_eq_c_mul_exp (t : ℝ) : b t = c * (1 - rexp (α * t)) := by
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 17]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+      f = homOfIndex₀ β := by
+  apply AffineIncrEquiv.hom_ext
+  · rw [coef_1_one]
+    unfold hom_coef_fst
+    simp; rfl
+  · rw [coef_2_eq_t_β]
+    unfold hom_coef_snd
+    ext s
+    simp
+
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: In the one proof where these are used, they shorten a few lines, but they add more lines (and declarations in the namespace) here. Because these are not very reusable (there is only one place where they are used), I would clean up by removing them.

```suggestion
```

File: ExtremeValueProject/OneParameterAffine.lean [hunk 18]
```diff
@@ -547,11 +554,109 @@ lemma measurable_toMultiplicative :
...
+lemma AffineIncrEquiv.hom_ext
+    (f : MonoidHom (Multiplicative ℝ) AffineIncrEquiv)
+    (g : MonoidHom (Multiplicative ℝ) AffineIncrEquiv)
+    (fst_coefs_eq : hom_coef_fst f = hom_coef_fst g)
+    (snd_coefs_eq : hom_coef_snd f = hom_coef_snd g) : f = g := by
+  ext s x; simp
+  change hom_coef_fst f s * x + hom_coef_snd f s
+       = hom_coef_fst g s * x + hom_coef_snd g s
+  rw [fst_coefs_eq, snd_coefs_eq]
+
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]: This is special casing the general principle of function extensionality. I don't think we should add special casing of general principles (and the extra length and extra declarations in the namespace that come with them) unless there is a clear usability/convenience drawback with the general result.

```suggestion
```

**Review by kkytola — CHANGES_REQUESTED** [review]
Thank you for the contribution!

I left some style comments.

The main comment is that the special cased notation and function extensionality lemmas do not seem worthwhile. Omitting them, one saves 52 lines (even if a few lines need to be added in the one proof where the special-cased lemmas and notation are used) and one avoids adding mostly non-reusable declarations in the namespace.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 1 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Resolved in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 2 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 3 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 4 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657; I originally added these to make using Measurable.comp easier, but missed that I can use it easily without this.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 5 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 6 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 8 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 9 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 11 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 12 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: I applied this change in c4f66e9198a4f4f49c72cc673d164a2682a9f657. I also changed the `by\ncalc` to a `calc` so that the calculation can start from the next line without adding one line more. Mathlib's style guide suggests starting the calculation from the next line if I remember right.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 13 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 14 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657. `term` was just the term I manipulated to match the goal modulo `ring`, but it's indeed not a very descriptive name.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 16 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: I changed the lambda to `fun` in c4f66e9198a4f4f49c72cc673d164a2682a9f657.

Otherwise I didn't apply this yet. Moving `t` to the left side of the colon changes the statement from `(fun t ↦ b t) = fun t ↦ c * (1 - rexp (α * t))` to `fun t ↦ (b t = c * (1 - rexp (α * t)))`. This change would break `congr_fun` in https://github.com/kkytola/ExtremeValueProject/pull/69#discussion_r3569610152, or require an extra `ext` there.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 17 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 18 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 7 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657. I thought `rw` is more robust than `simp`, so I have often preferred it.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 10 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Fixed in c4f66e9198a4f4f49c72cc673d164a2682a9f657

File: ExtremeValueProject/OneParameterAffine.lean (hunk 15 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: Applied in c4f66e9198a4f4f49c72cc673d164a2682a9f657, but I used `use ...` instead of the first `refine ...` on [line 601](https://github.com/kkytola/ExtremeValueProject/commit/c4f66e9198a4f4f49c72cc673d164a2682a9f657#diff-526c40d6ebe645f2044c39c34bca2c74d95ecf57e4b9b54f2dbbe6e12b5da9dfR601) as I think it is more idiomatic.

**Comment by joelkronqvist** [comment]
> Thank you for the contribution!
> 
> I left some style comments.
> 
> The main comment is that the special cased notation and function extensionality lemmas do not seem worthwhile. Omitting them, one saves 52 lines (even if a few lines need to be added in the one proof where the special-cased lemmas and notation are used) and one avoids adding mostly non-reusable declarations in the namespace.

Thanks for the feedback! I have some observations about some of the suggested changes, so I left a few discussions unresolved above.

Regarding removing the extensionality lemmas, now that I see how cleanly the proofs can be ended without them I agree that they aren't needed. I had only tried using the `ext` tactic which didn't produce a very useful result, which led me to think I probably should add a lemma doing what I wanted the `ext` to do.

File: ExtremeValueProject/OneParameterAffine.lean [hunk 19]
```diff
@@ -551,7 +551,57 @@ lemma measurable_toMultiplicative :
...
+        calc  b t
+          _ = b t * ((rexp (α * 1) - 1) / (rexp (α * 1) - 1))     := by rw [div_self aux] ; ring
+          _ = (rexp (α * 1) - 1) * b t / (rexp (α * 1) - 1)       := by ring
+          _ = (rexp (α * t) - 1) * b 1 / (rexp (α * 1) - 1)       :=
+            congrArg (· / (rexp (α * 1) - 1)) (refactored 1 t)
+          _ = c * (1 - rexp (α * t))                              := by ring
+    use α, c
+    suffices ∀ (s : ℝ), f s = homOfIndex α c s by ext s : 2 ; exact this s
+    refine fun s ↦ AffineIncrEquiv.ext_of_coefs (Prod.eq_iff_fst_eq_snd_eq.mpr ?_)
+    exact ⟨by simpa using congr_fun a_eq_exp_α_s s, by simpa using congr_fun b_eq_c_mul_exp s⟩
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]:
```suggestion
    exact ⟨by simpa using congr_fun a_eq_exp_α_s s, by simpa using b_eq_c_mul_exp s⟩
```

This should be the simplification of "arguments left of colon" in the application.

File: ExtremeValueProject/OneParameterAffine.lean [hunk 20]
```diff
@@ -551,7 +551,57 @@ lemma measurable_toMultiplicative :
...
+        (rexp (α * s) - 1) * b t = (rexp (α * t) - 1) * b s := calc
+          (rexp (α * s) - 1) * b t
+      _ = rexp (α * s) * b t + b s - b t - b s := by ring
+      _ = b (s + t) - b t - b s                := by rw [b_hom, a_eq_exp_α_s]
+      _ = b (t + s) - b t - b s                := by rw [add_comm s t]
+      _ = rexp (α * t) * b s + b t - b t - b s := by rw [b_hom, a_eq_exp_α_s]
+      _ = (rexp (α * t) - 1) * b s             := by ring
+    let c := - (b 1 / (rexp (α * 1) - 1))
+    have b_eq_c_mul_exp : b = fun t ↦ c * (1 - rexp (α * t)) := by
+      ext t
```
Comment (kkytola) [inline ExtremeValueProject/OneParameterAffine.lean]:
```suggestion
    have b_eq_c_mul_exp (t : ℝ) : b t = c * (1 - rexp (α * t)) := by
```

I think the "arguments left of colon" style in fact simplifies both here and in the application.

File: ExtremeValueProject/OneParameterAffine.lean (hunk 16 above)
Comment (joelkronqvist) [reply ExtremeValueProject/OneParameterAffine.lean]: This is now applied in https://github.com/kkytola/ExtremeValueProject/pull/69#discussion_r3597809400

**Comment by joelkronqvist** [comment]
It appears that the dependency [solution-functional-eqn-translation-with-scaling](https://kkytola.github.io/ExtremeValueProject/blueprint/sect0006.html#lem:solution-functional-eqn-translation-with-scaling) was not formalised contrary to what we discussed today. Instead the two lemmas I have used in the proof of the theorem discussed in this PR were both essentially [solution-functional-eqn-translation-no-scaling](https://kkytola.github.io/ExtremeValueProject/blueprint/sect0006.html#lem:solution-functional-eqn-translation-no-scaling), but in different forms. This made me a bit confusing so I hope this explanation clarifies what these commits do.

I decided to add 4 new commits. a0408f9da37360467d915db8759183f56e15c290 does kind of what I initially set out to do -- adds my name to the authors and marks the proven lemmas with `\leanok`. It also adds both lemmas I used in my proof, `eq_const_mul_of_additive_of_measurable` and `eq_exp_const_mul_of_multiplicative_of_measurable`, to `\lean{...}`.

Then, because obviously needed the result of [solution-functional-eqn-translation-with-scaling](https://kkytola.github.io/ExtremeValueProject/blueprint/sect0006.html#lem:solution-functional-eqn-translation-with-scaling), I found it in my proof and extracted it in 574fabd501b514076ef3b7a44424c0ea6254e25e with an extra assumption that `b 0 = 0`. Commit b793d59e33304cd12cae45a9ef9bd884ae074afb removes this assumption by proving it from the other assumptions.

Finally in 1a2aa3454e39849969a1594aab5441c2b456aea0 I add `\leanok` also to this extracted lemma.

**Comment by kkytola** [comment]
Merged. Thank you @joelkronqvist!
